US07485634B2
Preparation of 3-phenyl-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indole-5-carboxylic acid ethyl ester
The mixture of ethyl 1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carboxylate (520 mg, 2 mmol), cupric acetate (728 mg, 4 mmol), phenyl boronic acid (490 mg, 4 mol) and pyridine (0.35 mL, 4 mmol) in dry DCM (20 mL) was stirred at ambient temperature for 3 days. The mixture was filtered though a pad of celite. The filtrate was concentrated in vacuo and then purified by chromatography on silica gel eluting with EtOAc-Hexane (7:93) to give the title compound (53 mg); 1H-NMR (CDCl3): δ 8.66 (1H, s), 7.42 (1H, d), 7.26-7.18 (4 h, m), 7.10-7.00 (2H, m), 7.69 (2H, m), 6.67 (1H, t), 5.22 (1H, m), 4.40-4.18 (3H, m), 4.04-4.01 (1H, m), 3.98-3.88 (1H, m), 3.58-3.52 (1H, m), 3.22-3.15 (1H, m), 3.08-3.02 (1H, m), 1.27 (3H, t); MS (ES): 335 (MH+).

reactant | ethyl 1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carboxylate | 2 mmol, 520 mg | C1CNCC(C=2NC=3C=CC=CC3C21)C(=O)OCC | C15H18N2O2
reactant | phenyl boronic acid | 4 mol, 490 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 4 mmol, 0.35 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-phenyl-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indole-5-carboxylic acid ethyl ester | 53 mg | C(C)OC(=O)C1CN(CCC2=C1NC=1C=CC=CC21)C2=CC=CC=C2 | C21H22N2O2
